US07943575B2
SOMATULINE/CABERGOLINE Composition
1.0 g. SOMATULINE and 0.1 g CABERGOLINE are added to a 5.0 ml syringe. The two powders are dry-mixed wit a spatula and put under vacuum, e.g., using a vacuum pump. The mixed powder is connected via a valve to another 5 ml syringe containing 2.6 ml water. The valve is opened and the water is mixed with powder through the valve. 10 transfers of the resultant solution are made between the two syringes via alternate depression of their respective plungers to produce a homogeneous, semi-solid mixture. The semisolid is then loaded into 0.3 ml insulin syringes at doses of 0.225 ml.

reactant | SOMATULINE | CC(C)C1C(=O)NC(CSSCC(C(=O)NC(C(=O)NC(C(=O)NC(C(=O)N1)CCCCN)CC2=CNC3=CC=CC=C32)CC4=CC=C(C=C4)O)NC(=O)C(CC5=CC6=CC=CC=C6C=C5)N)C(=O)NC(C(C)O)C(=O)N | C54H69N11O10S2
reactant | CABERGOLINE | 0.1 g | CCNC(=O)N(CCCN(C)C)C(=O)[C@@H]1C[C@@H]2C3=CC=CC4=C3C(=CN4)C[C@H]2N(C1)CC=C | C26H37N5O2
solvent | water | O | H2O
solvent | water | 2.6 ml | O | H2O
product | SOMATULINE CABERGOLINE | CC(C)C1C(=O)NC(CSSCC(C(=O)NC(C(=O)NC(C(=O)NC(C(=O)N1)CCCCN)CC2=CNC3=CC=CC=C32)CC4=CC=C(C=C4)O)NC(=O)C(CC5=CC6=CC=CC=C6C=C5)N)C(=O)NC(C(C)O)C(=O)N.CCNC(=O)N(CCCN(C)C)C(=O)[C@@H]1C[C@@H]2C3=CC=CC4=C3C(=CN4)C[C@H]2N(C1)CC=C | InChI=1S/C54H69N11O10S2.C26H37N5O2/c1-29(2)45-54(75)63-44(53(74)65-46(30(3)66)47(57)68)28-77-76-27-43(62-48(69)38(56)23-32-15-18-33-10-4-5-11-34(33)22-32)52(73)60-41(24-31-16-19-36(67)20-17-31)50(71)61-42(25-35-26-58-39-13-7-6-12-37(35)39)51(72)59-40(49(70)64-45)14-8-9-21-55;1-5-11-30-17-19(25(32)31(26(33)27-6-2)13-8-12-29(3)4)14-21-20-9-7-10-22-24(20)18(16-28-22)15-23(21)30/h4-7,10-13,15-20,22,26,29-30,38,40-46,58,66-67H,8-9,14,21,23-25,27-28,55-56H2,1-3H3,(H2,57,68)(H,59,72)(H,60,73)(H,61,71)(H,62,69)(H,63,75)(H,64,70)(H,65,74);5,7,9-10,16,19,21,23,28H,1,6,8,11-15,17H2,2-4H3,(H,27,33)/t;19-,21-,23-/m.1/s1
